US08871782B2
Potassium carbonate (1.48 g, 10.75 mmol), 2-(2-chloroethyl)-1-methylpyrrolidine hydrochloride (483 mg, 2.62 mmol), sodium iodide (100 mg, 0.66 mmol), and 8-hydroxy-2-methoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine (500 mg, 1.75 mmol) were combined in acetone and heated at reflux overnight. Additional 2-(2-chloroethyl)-1-methylpyrrolidine hydrochloride and potassium carbonate were added, and the reaction was heated at reflux overnight. The reaction mixture was then cooled to ambient temperature, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on a HORIZON HPFC system (silica cartridge, eluting with a gradient of CMA:chloroform from 0:100 to 25:75) followed by recrystallization from acetonitrile to afford 105 mg of 2-methoxymethyl-8-[2-(1-methylpyrrolidin-2-yl)ethoxy]-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine as an off-white solid, mp 155-157° C. Anal. calcd for C22H31N5O2.0.25H2O: C, 65.66; H, 7.90; N, 17.40. Found: C, 65.66; H, 8.24; N, 17.26.

reactant | Potassium carbonate | 10.75 mmol, 1.48 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2-chloroethyl)-1-methylpyrrolidine hydrochloride | 2.62 mmol, 483 mg | Cl.ClCCC1N(CCC1)C
reactant | sodium iodide | 0.66 mmol, 100 mg | [I-].[Na+]
reactant | 8-hydroxy-2-methoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.75 mmol, 500 mg | OC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3CCC)COC | C15H18N4O2
solvent | acetone | CC(=O)C | C3H6O
product | 2-methoxymethyl-8-[2-(1-methylpyrrolidin-2-yl)ethoxy]-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 105 mg | COCC=1N(C2=C(C(=NC=3C=CC(=CC23)OCCC2N(CCC2)C)N)N1)CCC | C22H31N5O2
